US06812226B2
(i) 2-({3-Nitro-4-[4-(2-oxo-3,4-dihydroquinolin-1(2H)-yl)piperidin-1-yl]phenyl}carbonyl)benzoic acid
The product was prepared from 1-piperidin-4-yl-3,4-dihydroquinolin-2(1H)-one (Chem. Pharm. Bull. (1996), 44(4), 725-33) (0.45 g) and 2-(4-chloro-3-nitrobenzoyl)benzoic acid (0.6 g) using the method of example 1. Used crude.

reactant | 1-piperidin-4-yl-3,4-dihydroquinolin-2(1H)-one | 0.45 g | N1CCC(CC1)N1C(CCC2=CC=CC=C12)=O | C14H18N2O
reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 0.6 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
product | 2-({3-Nitro-4-[4-(2-oxo-3,4-dihydroquinolin-1(2H)-yl)piperidin-1-yl]phenyl}carbonyl)benzoic acid | [N+](=O)([O-])C=1C=C(C=CC1N1CCC(CC1)N1C(CCC2=CC=CC=C12)=O)C(=O)C1=C(C(=O)O)C=CC=C1 | C28H25N3O6
